US05030706
A slurry of 2.30 (7.52 mmol) g 4-(4-phenoxyphenoxy)benzoic acid, 30 ml of thionyl chloride and 2 drops of N,N-dimethylformamide is refluxed under nitrogen atmosphere for 16 hours. Excess thionyl chloride is distilled to yield an oil, and 200 ml of anhydrous n-hexane is added. The solution is cooled to -15° C., and the resulting precipitate is filtered and dried under nitrogen atmosphere. The precipitate is dissolved in a minimum volume of hot n-hexane, the solution is filtered and the filtrate is cooled to -15° C. to yield 1.82 g (66 percent yield) of 4-(4-phenoxyphenoxy)benzoyl chloride having a melting point of 85° C. to 89° C. by DSC measurement.

reactant | 4-(4-phenoxyphenoxy)benzoic acid | O(C1=CC=CC=C1)C1=CC=C(OC2=CC=C(C(=O)O)C=C2)C=C1 | C19H14O4
reactant | thionyl chloride | 30 ml | S(=O)(Cl)Cl | Cl2OS
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
product | 4-(4-phenoxyphenoxy)benzoyl chloride | 1.82 g, 66 percent yield | O(C1=CC=CC=C1)C1=CC=C(OC2=CC=C(C(=O)Cl)C=C2)C=C1 | C19H13ClO3
